US09376422B2
Step 5: methyl 5-chloro-2-methyl-3-(methyl(tetrahydro-2H-pyran-4-yl)amino)benzoate
To a stirred solution of methyl 5-chloro-2-methyl-3-((tetrahydro-2H-pyran-4-yl)amino)benzoate (700 mg, 2.473 mmol) in acetonitrile (10 mL), cesium carbonate (1.61 g, 4.946 mmol) and methyl iodide (1.82 g, 0.8 ml, 12.36 mmol) were added; resulting reaction mass was heated at 80° C. for 13 h. On completion, reaction mass was cooled to room temperature and filtered, residue was washed with ethyl acetate and filtrate was concentrated and then purified by column chromatography to afford desired compound (480 mg, 65%).

reactant | methyl 5-chloro-2-methyl-3-((tetrahydro-2H-pyran-4-yl)amino)benzoate | 2.473 mmol, 700 mg | ClC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCOCC1 | C14H18ClNO3
reactant | cesium carbonate | 4.946 mmol, 1.61 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 12.36 mmol, 0.8 ml, 1.82 g | CI | CH3I
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 5-chloro-2-methyl-3-(methyl(tetrahydro-2H-pyran-4-yl)amino)benzoate | 480 mg, 65% | ClC=1C=C(C(=C(C(=O)OC)C1)C)N(C1CCOCC1)C | C15H20ClNO3
